US06906084B2
(ii) 1H-Indole-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester.
To a solution of 7.3 g 4-Bromo-1H-indole-2-carboxylic acid tert-butyl ester in 100 ml DMF, 6.8 ml NEt3, 276 mg Pd(OAc)2, 128 mg 1,1′-Bis(diphenylphosphino)ferrocene, 12 ml MeOH were added and purged with argon for 15 min. This solution was then purged with carbon monoxide and heated to 70° C. for 4 h. The reaction mixture was concentrated under reduced pressure, the residue dissolved in 200 ml DCM and washed with 100 ml water. The organic layer was dried over MgSO4 and, after removal of the solvent under reduced pressure, the residue was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate 9:1. The fractions containing the product were collected and concentrated under reduced pressure.

reactant | 4-Bromo-1H-indole-2-carboxylic acid tert-butyl ester | 7.3 g | C(C)(C)(C)OC(=O)C=1NC2=CC=CC(=C2C1)Br | C13H14BrNO2
reactant | MeOH | 12 ml | CO | CH4O
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | NEt3 | 6.8 ml | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 276 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | 128 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1H-Indole-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester | COC(=O)C=1C=2C=C(NC2C=CC1)C(=O)OC(C)(C)C | C15H17NO4
